US04134983
To a stirred suspension of calcium hydroxide (61 gm), sodium carbonate (69.7 gm), and 3,5 dichlorophenol (20.97 gm) in water (436 ml) at 74° is added chloroform (45.3 gm) over 90 minutes. The solution is refluxed for 31/2 hours. After the slow addition of concentrated hydrochloric acid (170 ml), the acidic solution is steam distilled the aqueous residue is cooled and the solid which separates is filtered. Recrystallization from toluene gives 1.1 gm of 2,6-dichloro-4-hydroxybenzaldehyde.

reactant | calcium hydroxide | 61 gm | [OH-].[Ca+2].[OH-]
reactant | sodium carbonate | 69.7 gm | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3,5 dichlorophenol | 20.97 gm | ClC=1C=C(C=C(C1)Cl)O | C6H4Cl2O
reactant | hydrochloric acid | 170 ml | Cl | ClH
solvent | water | 436 ml | O | H2O
solvent | chloroform | 45.3 gm | C(Cl)(Cl)Cl | CHCl3
product | 2,6-dichloro-4-hydroxybenzaldehyde | 1.1 gm | ClC1=C(C=O)C(=CC(=C1)O)Cl | C7H4Cl2O2
